US08802704B2
Step 1: tert-butyl 2-((4-cyano-2-(trifluoromethyl)benzyl)(methyl)amino)acetate
A solution of 4-methyl-3-(trifluoromethyl)benzonitrile (1.85 g, 10 mmol), N-bromosuccinimide (2.14 g, 12.0 mmol) and AIBN (0.033 g, 0.2 mmol) in ACN (40 mL) was heated under reflux for 18 hours. The reaction mixture was diluted with EtOAc and water. The suspension was filtered and the filtrate was separated. The organic phase was washed with brine, dried (MgSO4) and concentrated under vacuum. The residue was purified by flash chromatography (silica, iso-hexane/EtOAc). The material was treated with sarcosine tert-butyl ester hydrochloride (0.516 g, 2.84 mmol) and K2CO3 (0.980 g, 7.1 mmol) in ACN (10 mL). The mixture was heated at 70° C. for 18 hours. The solvent was evaporated under vacuum. The residue was dissolved in a mixture of DCM and water and then poured through a hydrophobic frit. The solvent was evaporated under vacuum. The residue was purified by flash chromatography (silica, iso-hexane/EtOAc) to afford the title compound (0.543 g, 70%). 1H NMR (CDCl3, 400 MHz) δ δ 8.15 (1H, d, J=8.2 Hz), 7.90 (1H, s), 7.83 (1H, d, J=8.2 Hz), 3.90 (2H, s), 3.26 (2H, s), 2.37 (3H, s), 1.48 (9H, s).

reactant | 4-methyl-3-(trifluoromethyl)benzonitrile | 10 mmol, 1.85 g | CC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H6F3N
reactant | N-bromosuccinimide | 12.0 mmol, 2.14 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.2 mmol, 0.033 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | sarcosine tert-butyl ester hydrochloride | 2.84 mmol, 0.516 g | Cl.C(C)(C)(C)OC(CNC)=O
reactant | K2CO3 | 7.1 mmol, 0.980 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 40 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | tert-butyl 2-((4-cyano-2-(trifluoromethyl)benzyl)(methyl)amino)acetate | 0.543 g, 70% | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)C(F)(F)F | C16H19F3N2O2
